US09126931B2
6,6-Dimethyl-11-oxo-8-(4-oxo-piperidin-1-yl)-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile
8-(4-Hydroxy-piperidin-1-yl)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile (Compound B2-7-1, 210 mg, 0.545 mmol), was dissolved in the DCM (2 mL) and DMF (0.6 mL) mixture solvent, added with 1,1,1-triacetoxy-1,1-dihydro-1,2-benzoiodoxol-3(1H)-one (300 mg, 1.3 eq.), and the mixture was stirred at room temperature for 2 hr. To the reaction solution, 0.25 mol/L aqueous solution of sodium thiosulfate, saturated sodium bicarbonate solution and CPME were added followed by further stirring at room temperature for 1 hr. The reaction solution was filtered and the filtrate was subjected to liquid separation. The organic layer was washed with saturated brine and dried over sodium sulfate. The drying agent was removed by filtration and the residues obtained after concentration under reduced pressure were purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the target compound (yellowish white powder, 109 mg, 52%).

reactant | 8-(4-Hydroxy-piperidin-1-yl)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 0.545 mmol, 210 mg | OC1CCN(CC1)C=1C=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C1 | C24H23N3O2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | CPME | COC1CCCC1 | C6H12O
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
product | 6,6-Dimethyl-11-oxo-8-(4-oxo-piperidin-1-yl)-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | CC1(C2=C(C(C=3C4=CC=C(C=C4NC13)C#N)=O)C=CC(=C2)N2CCC(CC2)=O)C | C24H21N3O2
